US04272550
Combine ethyl 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetate (7.0 g=19 mmol) and benzylamine (12.0 g=0.11 mmol). Heat 4 hours at 110° C., allow to cool, and partition between 1.0 N HCl and ether. Dry and concentrate the ether. Recrystallize from ether-hexane and obtain, as a white solid, m.p. 142°-144° C., N-benzyl-2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetamide.

reactant | ethyl 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetate | 19 mmol, 7.0 g | FC(C(C(F)(F)F)(O)C1=CC(=C(OCC(=O)OCC)C(=C1)C)C)(F)F | C15H16F6O4
reactant | benzylamine | 0.11 mmol, 12.0 g | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetamide | C(C1=CC=CC=C1)NC(COC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C)=O | C20H19F6NO3
